US08563742B2
To a THF (3 mL) solution of 5-methanesulfonyl-thiophene-2-carboxylic acid (900 mg, 4.32 mmol) at RT was added borane in THF (1M solution, 6 mL) and the reaction was stirred at room temperature overnight. The reaction was cooled in an ice bath and quenched with methanol. The solvent was evaporated under reduced pressure and the mixture was purified on a silica gel column to afford (5-methanesulfonyl-thiophen-2-yl)-methanol (500 mg, 60.2% yield).

reactant | 5-methanesulfonyl-thiophene-2-carboxylic acid | 4.32 mmol, 900 mg | CS(=O)(=O)C1=CC=C(S1)C(=O)O | C6H6O4S2
reactant | borane | B | BH3
solvent | THF | 1M, 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (5-methanesulfonyl-thiophen-2-yl)-methanol | 500 mg, 60.2% yield | CS(=O)(=O)C1=CC=C(S1)CO | C6H8O3S2
